US06995179B2
1) Synthesis of phenylcarbamoylmethyl acetoacetate:
4.36 g (28.8 mmol)) of 2-hydroxy-N-phenylacetamide, 0.8 ml (5.74 mmol) of triethylamine and 6.5 ml (84.3 mmol) of diketene were heated at 70° C. under stirring in 50 ml of toluene for 7.5 hours. After the addition of a saturated aqueous sodium hydrogencarbonate solution at room temperature followed by the extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | 2-hydroxy-N-phenylacetamide | OCC(=O)NC1=CC=CC=C1 | C8H9NO2
reactant | triethylamine | 5.74 mmol, 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | diketene | 84.3 mmol, 6.5 ml | C=C1CC(=O)O1 | C4H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | phenylcarbamoylmethyl acetoacetate | C(CC(=O)C)(=O)OCC(NC1=CC=CC=C1)=O | C12H13NO4
